US06372941B1
Using thionyl chloride and methanol, threonine was derivatized into threonine methyl ester hydrochloride, which was then treated with thionyl chloride to give α-amino-β-chlorobutyric acid methyl ester hydrochloride. This was then converted to α-amino-β-chloropropionic acid hydrochloride by hydrolyzing with hydrochloric acid. The α-amino-β-chloropropionic acid hydrochloride was crystallized and isolated by the same technique as mentioned in Example 8.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | threonine methyl ester hydrochloride | Cl.COC([C@@H](N)[C@H](O)C)=O
solvent | methanol | CO | CH4O
product | α-amino-β-chlorobutyric acid methyl ester hydrochloride | Cl.COC(C(C(C)Cl)N)=O | InChI=1S/C5H10ClNO2.ClH/c1-3(6)4(7)5(8)9-2;/h3-4H,7H2,1-2H3;1H
